US07230023B2
(1) 4-Methoxybenzyl 4-(allyloxycarbonyloxy)butyrate
To a suspension of commercially available sodium 4-hydroxybutyrate (10.3 g, 81.7 mmol) in N,N-dimethylformamide (80 ml) was added 4-methoxybenzyl chloride (12.8 g, 81.7 mmol), and the mixture was heated at 100° C. for 1 hour. After cooling, the mixture was diluted with ethyl acetate, and the resulting solution was washed three times with water and once with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give a colorless, oily residue. The residue was dissolved in dichloromethane (150 ml), and 4-(N,N-dimethylamino)pyridine (11.0 g, 90 mmol) and allyl chloroformate (9.85 g, 81.7 mmol) were added thereto at 0° C., and the resulting mixture was stirred at room temperature for 16 hours. The mixture was diluted with ethyl acetate, then washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate, a saturated aqueous solution of ammonium chloride, and an aqueous solution of sodium chloride. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to afford an oily residue. The residue was subjected to chromatography on a silica gel (600 g) column (eluent; ethyl acetate:hexane=4:1˜2:1) to afford the title compound (15.61 g, 62% yield) as a colorless oil.

reactant | sodium 4-hydroxybutyrate | 81.7 mmol, 10.3 g | OCCCC(=O)[O-].[Na+]
reactant | 4-methoxybenzyl chloride | 81.7 mmol, 12.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | allyl chloroformate | 81.7 mmol, 9.85 g | ClC(=O)OCC=C | C4H5ClO2
reactant | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 90 mmol, 11.0 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-Methoxybenzyl 4-(allyloxycarbonyloxy)butyrate | 15.61 g, 62% yield | C(C=C)OC(=O)OCCCC(=O)OCC1=CC=C(C=C1)OC | C16H20O6
